US06900347B2
Grubbs olefin metathesis catalysts were screened for activity and impurity formation using the Argonaut Technologies (San Carlos, Calif.) FirstMate™ Manual Synthesizer. In the desired reaction, illustrated in FIG. 1, equal moles of 5-decene and 1, diacetoxy-5-decene are reacted to produce 5-decenyl acetate. Six large test tubes (2.22 cm ID×15.0 cm) were fitted to the FirstMate.™ Each test tube was filled with 1.67M 5-decene and 1.67M 1,10-diacetoxy-5-decene, in methylene chloride, to a final volume of 35 mL. The solutions were warmed to 45° C., under an inert gas, Argon. To each tube was charged one of the olefin metathesis catalysts 716, 801, 848, 823, 830, and 835 (0.117 mmol, 0.2 mol % catalyst), and mixing was initiated. Samples (˜1 mL) of the reaction mixture were withdrawn from each tube, at times shown in Table 1, via a syringe and immediately quenched with 10 mL of 1 M trishydroxymethyl phosphine (THP) in isopropyl alcohol (IPA), shaken for 1 min and placed in a 65° C. oven for 1 hr. Water (5 mL) was added to each sample, shaken and the phases were allowed to separate. Three drops of the organic phase were added to separate 2 mL GC vials, diluted with IPA, and analyzed on a HP 5890 gas chromatograph (GC). Since the metathesis reactions are equilibrium reactions, using equal molar ratios of starting materials will produce a maximum of 50% yield. Thus, percent conversion is based on moles of product divided by moles of both reactants consumed in the reaction. The consumed moles of reactants also would produce byproducts or impurities. The results of the Percent Conversion in each reaction tube (i.e. for each catalyst) are shown in Table 1 and Percent Impurities are shown in Table 2.

reactant | 5-decene | CCCCC=CCCCC | C10H20
reactant | diacetoxy-5-decene | C(C)(=O)OC(=C(CCCC)OC(C)=O)CCCC | C14H24O4
product | 5-decenyl acetate | 50% yield | C(C)(=O)OCCCCC=CCCCC | C12H22O2
